US06734179B2
To a stirred solution of 32 mg (0.23 mmol) 4-fluoro-benzoic acid in 5 ml THF were added 32 mg (0.25 mmol) HATU and 0.043 ml (0.25 mmol) N-ethyldiisopropylamine and stirring continued at room temperature for 1 h. A solution of 60 mg (0.23 mmol) 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl-amine in 5 ml dioxane and 1 ml DMF was then added and stirring continued at room temperature for 16 h. The reaction mixture was then poured into 100 ml water and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate) followed by trituration in hexane afforded 45 mg (51%) 4-fluoro-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-benzamide as a white crystalline solid. ES-MS m/e (%): 387 (M+H+, 100).

reactant | 4-fluoro-benzoic acid | 0.23 mmol, 32 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | 0.25 mmol, 32 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | 0.25 mmol, 0.043 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl-amine | 0.23 mmol, 60 mg | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-fluoro-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-benzamide | 45 mg, 51% | FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=C1 | C20H19FN2O3S
